US07199147B2
Under a nitrogen atmosphere, 10% Pd—C (1.0 g) was added to a solution of 3-nitro-o-cresol (10.0 g, 65.3 mmol) in methanol (200 ml) at room temperature, and catalytic reduction was carried out at ordinary temperature and atmospheric pressure. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in ethyl acetate, followed by adding thereto acetic anhydride (10.0 ml, 170 mmol) and pyridine (10.6 ml, 131 mmol), and the resulting mixture was refluxed for 2 hours. After completion of the reaction, the reaction mixture was concentrated and hexane was added thereto. The resulting suspension was filtered and the precipitate was dried under reduced pressure to obtain 3-(acetylamino)-2-methylphenyl acetate (12.7 g, 94%).

reactant | 3-nitro-o-cresol | 65.3 mmol, 10.0 g | [N+](=O)([O-])C1=C(C(=CC=C1)O)C | C7H7NO3
reactant | acetic anhydride | 170 mmol, 10.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 131 mmol, 10.6 ml | N1=CC=CC=C1 | C5H5N
reactant | methanol | 200 ml | CO | CH4O
catalyst | Pd—C | 1.0 g | [Pd] | Pd
product | 3-(acetylamino)-2-methylphenyl acetate | 12.7 g, 94% | C(C)(=O)OC1=C(C(=CC=C1)NC(C)=O)C | C11H13NO3
